US05382670
To a slurry of 2-(3-pyridinyl)-4-thiazolidinecarboxylic acid (7.0 g, 33.3 mmol) as prepared in Step 1 in 40 mL dioxane was added 60 mL of 1M NaOH and di-tert-butyldicarbonate (1.5 eq, 50 mmol) in dioxane. The mixture was stirred for 19 hours. The mixture was concentrated and the resulting liquid partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and dried to yield 2-(3-pyridinyl)-3-tert-butoxycarbonyl-4-thiazolidinecarboxylic acid (8.27 g, 80%).

reactant | 2-(3-pyridinyl)-4-thiazolidinecarboxylic acid | 33.3 mmol, 7.0 g | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | NaOH | 1M, 60 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 50 mmol, 1.5 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-(3-pyridinyl)-3-tert-butoxycarbonyl-4-thiazolidinecarboxylic acid | 8.27 g, 80% | N1=CC(=CC=C1)C1SCC(N1C(=O)OC(C)(C)C)C(=O)O | C14H18N2O4S
